US07691877B2
[2-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-ethyl]-(2-methoxy-ethyl)-carbamic acid tert-butyl ester
N*2*,N*4*-Dibenzyl-6-[2-(2-methoxy-ethylamino)-ethyl]-3-nitro-pyridine-2,4-diamine (150 mg, 0.34 mmol) was suspended in DCM (10 ml) and the solution cooled to 0° C. before the drop-wise addition of boc anhydride (95 μl, 0.41 mmol) as a solution in 5 ml DCM. The mixture was allowed to warm to room temperature and after 1 h, quenched with 10 ml H2O. The organic extract was dried and concentrated in vacuo to give the title compound as a yellow oil, (170 mg, 92%).

reactant | N*2*,N*4*-Dibenzyl-6-[2-(2-methoxy-ethylamino)-ethyl]-3-nitro-pyridine-2,4-diamine | 0.34 mmol, 150 mg | C(C1=CC=CC=C1)NC1=NC(=CC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)CCNCCOC | C24H29N5O3
reactant | boc anhydride | 0.41 mmol, 95 μl | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [2-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-ethyl]-(2-methoxy-ethyl)-carbamic acid tert-butyl ester | 170 mg, 92% | C(C)(C)(C)OC(N(CCOC)CCC1=NC(=C(C(=C1)NCC1=CC=CC=C1)[N+](=O)[O-])NCC1=CC=CC=C1)=O | C29H37N5O5
